US06846819B1
b) (E)-N-Methyl-N-(3-methyl-1H-inden-2-ylmethyl)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide
A mixture of 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one (0.096 g, 0.42 mmole), from Preparation 15, and N-methyl-N-(3-methyl-1H-inden-2-ylmethyl)acrylamide (0.141 g, 0.62 mmole) in propionitrile (10 mL) was treated with (i-Pr)2NEt (0.15 mL, 0.08 mmole), palladium acetate (0.014 g, 0.062 mmole), and (O-tolyl)3P (0.025 g, 0.08 mmole), and the resulting mixture was heated at gentle reflux. After 18 hr, the reaction was cooled, filtered through celite®, and concentrated. Flash chromatography on silica gel (2% MeOH/CH2Cl2) gave the title compound (0.06 g, 41%) as a glassy solid: MS (ES) n/e 374.2 (M+H)+. Anal. Calcd for C23H23N3O2 1.25H2O: C, 69.76; H, 6.41; N, 10.61. Found: C, 69.86; H, 6.67; N, 10.51.

reactant | 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one | 0.42 mmole, 0.096 g | BrC=1C=C2CCC(NC2=NC1)=O | C8H7BrN2O
reactant | N-methyl-N-(3-methyl-1H-inden-2-ylmethyl)acrylamide | 0.62 mmole, 0.141 g | CN(C(C=C)=O)CC=1CC2=CC=CC=C2C1C | C15H17NO
reactant | (i-Pr)2NEt | 0.08 mmole, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | propionitrile | 10 mL | C(CC)#N | C3H5N
catalyst | palladium acetate | 0.062 mmole, 0.014 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-N-Methyl-N-(3-methyl-1H-inden-2-ylmethyl)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide | 0.06 g, 41% | CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)CC=1CC2=CC=CC=C2C1C | C23H23N3O2
